US06235750B1
A. 2-(4-((2-(2,5-Dimethylpyrrolyl))-pyrid-6-yl)benzylidene)cyclopentanone
To a 100 mL round-bottomed flask equipped with Dean-Stark trap topped with a condenser and N2 inlet were added 552 mg (2.0 mmol) 2-(2,5-dimethylpyrrolyl)-6-(4-formylphenyl)-pyridine, 20 mL benzene, 0.384 mL (2.4 mmol) 4-morpholino-1-cyclohexene, and 10 mg camphorsulfonic acid. The solution was refluxed with removal of water for 13 hours cooled, and 25 mL 3N hydrochloric acid added. The mixture was stirred at room temperature for 1 hour then diluted with ethyl acetate and water. The organic layer was separated, washed with aqueous sodium bicarbonate solution and brine, dried over sodium sulfate, and evaporated. The crude oil solidified on standing, 460 mg (˜100%), and was used directly in the next step.

reactant | 2-(2,5-dimethylpyrrolyl)-6-(4-formylphenyl)-pyridine | 2.0 mmol, 552 mg | CC=1NC(=CC1C1=NC(=CC=C1)C1=CC=C(C=C1)C=O)C | C18H16N2O
reactant | 4-morpholino-1-cyclohexene | 2.4 mmol, 0.384 mL | O1CCN(CC1)C1CC=CCC1 | C10H17NO
reactant | camphorsulfonic acid | 10 mg | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
reactant | hydrochloric acid | 3N, 25 mL | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
product | 2-(4-((2-(2,5-Dimethylpyrrolyl))-pyrid-6-yl)benzylidene)cyclopentanone | CC=1NC(=CC1C1=NC(=CC=C1)C1=CC=C(C=C2C(CCC2)=O)C=C1)C | C23H22N2O
